US06967198B2
4-Acetylamino-N-(6-oxo-5,6-dihydro-1H-[1,2]diazepino[4,5,6-cd]indol-8-yl)-benzamide
Preparation of example 197 from the title compound of Example 2 (124 mg, 0.525 mmol), 4-acetylamino-benzoic acid (113 mg, 0.631 mmol), (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride (120 mg, 0.628 mmol), and 4-dimethylaminopyridine (77 mg, 0.631 mmol) in N,N-dimethylformamide (7.0 mL) was carried out analogously to Example 190, Step 2. When the reaction was judged complete, the volatile components were evaporated and methanol was added. The mixture was filtered to collect the solids, which were then washed with methanol, dichloromethane and diethyl ether. After drying, the title compound (32 mg, 0.0886 mmol) was obtained as a yellow powder in 17% yield.

reactant | 4-acetylamino-benzoic acid | 0.631 mmol, 113 mg | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 0.628 mmol, 120 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 7.0 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.631 mmol, 77 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Acetylamino-N-(6-oxo-5,6-dihydro-1H-[1,2]diazepino[4,5,6-cd]indol-8-yl)-benzamide | 0.525 mmol, 124 mg | C(C)(=O)NC1=CC=C(C(=O)NC=2C=C3C=4C(=CNC4C2)C=NNC3=O)C=C1 | C19H15N5O3
